US04851526
N-Ethyl-N-[2-(4-methylphenoxy)ethyl]amine
To a chilled suspension of 0.49 g (013 mol) lithium aluminium hydride in 50 mL anhydrous ether, add 5.0 g (025 mol) N-[2-(4-methylphenoxy)ethyl]acetamide at a rate which maintains the reaction temperature below 10° C. Allow to warm to room temperature and stir at ambient temp. for 24 hrs. After this time, quench the mixture with H2O and filter the salts. Concentrate the filtrate to obtain the title compound.

reactant | lithium aluminium hydride | 0.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-[2-(4-methylphenoxy)ethyl]acetamide | 5.0 g | CC1=CC=C(OCCNC(C)=O)C=C1 | C11H15NO2
solvent | ether | 50 mL | CCOCC | C4H10O
product | N-Ethyl-N-[2-(4-methylphenoxy)ethyl]amine | C(C)NCCOC1=CC=C(C=C1)C | C11H17NO
